US06710064B2
The compound of formula (P5), wherein R′ is 4-Bromo and the bonds linking the benzyloxy and methyl ester groups (depicted in P5 as wavy bonds) define the trans, L-proline configuration (2S,4R) was prepared as follows. To a suspension of sodium hydride (60% in oil) (0.12 g) (1.5 eq.) in 5 mL of dry THF was added trans-N-Boc-4-hydroxy-L-proline methyl ester (0.5 g) in 5 mL of dry THF. The reaction mixture was stirred for 45 minutes and a solution of 4-bromobenzyl bromide (0.75 g) (1.5 eq.) in 5 mL of dry THF was added. The reaction mixture was refluxed for 3 hours. After cooling to RT, the reaction mixture was diluted with water and extracted with EtOAc. The aqueous layer was acidified and extracted with DCM. The combined organic extracts were washed with water, dried over MgSO4, and evaporated under reduced pressure to afford trans-N-Boc-4-(4-bromo-benzyloxy)-L-proline (0.25 g). NMR (CDCl3, 200 MHz): 7.47 (2H, d), 7.2 (2H, d), 4.50-4.30 (3H, m), 4.25-4.1 (1H, m), 3.75 (3H, s), 3.8-3.5 (2H, m), 2.5-2.3 (1H, m), 2.15-1.95 (1H, m), 1.5-1.35 (9H).

reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium hydride | 0.12 g, 1.5 eq. | [H-].[Na+]
reactant | trans-N-Boc-4-hydroxy-L-proline methyl ester | 0.5 g | COC([C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C)=O | C11H19NO5
reactant | 4-bromobenzyl bromide | 0.75 g, 1.5 eq. | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | trans-N-Boc-4-(4-bromo-benzyloxy)-L-proline | 0.25 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)C[C@H](C1)OCC1=CC=C(C=C1)Br | C17H22BrNO5
